US09080021B2
1.7 Kilograms of an 8-mass % solution of p-t-butylphenol in methylene chloride were added to the resultant. Next, an alkali aqueous solution of bisphenol A (BPA) (obtained by dissolving 1.14 kg of BPA in 8.98 kg of a 6.4-mass % aqueous sodium hydroxide) was added to the resultant, and then the mixture was stirred at 240 rpm for 55 minutes.

reactant | p-t-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
